US07071218B2
To a cold solution (0° C.) of 1-(3,3-dimethyl-2,3-dihydro-benzofuran-5-yl)-2-methyl-propan-1-ol (1.97 g, 8.93 mmol) in dry dichloromethane (40 mL) was added triethylsilane (2.85 mL, 17.86 mmol). After 10 minutes, trifluoroacetic acid was the reaction mixture stirred at 0° C. for 30 minutes. Water was poured into the reaction mixture and the layers separated. The organic layer was further washed with water, aqueous NaHCO3 and brine, dried (Mg2SO4), filtered and evaporated. The residue was purified on silica gel (0% to 5% ethyl acetate in hexane) to give 1.6 g of 5-isobutyl-3,3-dimethyl-2,3-dihydro-benzofuran (87%). 1H NMR (300 MHz; CDCl3): δ 0.90 (d, J=6.3 Hz, 6 H), 1.32 (s, 6 H), 1.79 (m, 1 H), 2.40 (d, J=6.9 Hz, 2 H), 4.20 (s, 2 H), 6.68 (dd, J=1.2 Hz and 7.5 Hz, 1 H), 6.87 (m, 2 H).

reactant | 1-(3,3-dimethyl-2,3-dihydro-benzofuran-5-yl)-2-methyl-propan-1-ol | 8.93 mmol, 1.97 g | CC1(COC2=C1C=C(C=C2)C(C(C)C)O)C | C14H20O2
reactant | triethylsilane | 17.86 mmol, 2.85 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | Water | O | H2O
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 5-isobutyl-3,3-dimethyl-2,3-dihydro-benzofuran | 1.6 g, 87% | C(C(C)C)C=1C=CC2=C(C(CO2)(C)C)C1 | C14H20O
